US04263430
1 g of 2-methyl-5-[2-(2,3-epoxypropoxy)-styryl]1,3,4-thiadiazole is left to stand in a mixture of 100 ml of ethanol and 5 ml of a 3 N solution of hydrogen chloride in ether for 12 hours. The precipitate formed is filtered off, washed neutral with ether and chromatographed on silica gel, using chloroform. Evaporation to dryness of the eluates containing the product gives spectroscopically pure 2-methyl-5-[2-(2-hydroxy-3-chloro-propoxy)-styryl]-1,3,4-thiadiazole of melting point 168°-170° C.

reactant | 2-methyl-5-[2-(2,3-epoxypropoxy)-styryl]1,3,4-thiadiazole | 1 g | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC1CO1 | C14H14N2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-methyl-5-[2-(2-hydroxy-3-chloro-propoxy)-styryl]-1,3,4-thiadiazole | CC=1SC(=NN1)C=CC1=C(C=CC=C1)OCC(CCl)O | C14H15ClN2O2S
